US07196203B2
To a suspension of (1S,2R)-2-[2-hydroxy-2-(4-hydroxy-phenyl)-1-methylethyl]isoindol-1,3-dione (1.0 g) in methanol (1.7 mL), methylamine in methanol (40% w/v; 3.5 mL) was added. The mixture was heated under reflux in argon atmosphere for 12 hours. After removing the solvent in vacua, the resulting residue was dissolved in tetrahydrofuran (3 mL) under heating. This solution was cooled and kept at room temperature. After removing the resulting precipitate by filtration, the mother liquor was concentrated in vacua. The resulting residue was recrystallized from ethyl acetate/methanol to obtain (1R, 2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol (0.30 g: 54% yield, optical purity 100% e.e.).

reactant | (1S,2R)-2-[2-hydroxy-2-(4-hydroxy-phenyl)-1-methylethyl]isoindol-1,3-dione | 1.0 g | O[C@@H]([C@H](C)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)O | C17H15NO4
solvent | methanol | 1.7 mL | CO | CH4O
solvent | methylamine | CN | CH5N
solvent | methanol | 3.5 mL | CO | CH4O
product | (1R, 2S)-2-amino-1-(4-hydroxyphenyl)propan-1-ol | 0.30 g, 54% yield | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
